US08138210B2
Aminoguanidine hydrogencarbonate (45 mg, 0.33 mmol) was dissolved in 2 ml of 1 N HCl. A solution of N-(3-oxo-2,3-dihydro-1H-inden-5-yl)naphthalene-2-sulfonamide (100 mg, 0.30 mmol) in methanol (2 ml) was added and the mixture was heated to reflux for 1 hour. Then the mixture was concentrated in vacuo and the precipitated salt was crystallized from acetonitrile to give 48 mg (36%) of 2-{6-[(2-naphthylsulfonyl)amino]-2,3-dihydro-1H-inden-1-ylidene}hydrazinecarboximidamide hydrochloride.

reactant | Aminoguanidine hydrogencarbonate | 0.33 mmol, 45 mg | C(O)(O)=O.NNC(=N)N
reactant | N-(3-oxo-2,3-dihydro-1H-inden-5-yl)naphthalene-2-sulfonamide | 0.30 mmol, 100 mg | O=C1CCC2=CC=C(C=C12)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C19H15NO3S
reactant | HCl | 1 N, 2 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 2-{6-[(2-naphthylsulfonyl)amino]-2,3-dihydro-1H-inden-1-ylidene}hydrazinecarboximidamide hydrochloride | 48 mg, 36% | Cl.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1=CC=C2CCC(C2=C1)=NNC(N)=N | InChI=1S/C20H19N5O2S.ClH/c21-20(22)24-23-19-10-7-14-5-8-16(12-18(14)19)25-28(26,27)17-9-6-13-3-1-2-4-15(13)11-17;/h1-6,8-9,11-12,25H,7,10H2,(H4,21,22,24);1H
